US06441017B1
Step I: 3-Benzyloxybenzylamine
3-Benzyloxybenzyl azide, as described above in Step H, (5.0 g, 20.9 mmol) was dissolved in dry THF (100 mL) and the solution was cooled to −70° C. Lithium aluminum hydride (31.4 mL of a 1.0 M solution in THF, 31.4 mmol) was added dropwise, then the reaction mixture was warmed to 0° C. and stirred for 30 min. The reaction was quenched with EtOAc (1.2 mL), then water (1.2 mL), then 15% NaOH (1.2 mL), and finally water (3.6 mL). The resulting mixture was filtered, concentrated under reduced pressure and purified by flash column chromatography on silica, eluting with CH2Cl2—3% MeOH—0.3% NH4OH, to yield the titled product as a colorless oil.

reactant | 3-Benzyloxybenzyl azide | C(C1=CC=CC=C1)OC=1C=C(CN=[N+]=[N-])C=CC1 | C14H13N3O
reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-Benzyloxybenzylamine | C(C1=CC=CC=C1)OC=1C=C(CN)C=CC1 | C14H15NO
